US04228298
4-Fluoromethyl-4-trimethylsilyloxy-1-tri-n-butylstannyl-trans-1-octene
A solution of 6.36 g. of 4-fluoromethyl-4-trimethylsilyloxy-1-octyne, 11.64 g. of (10.6 ml.) of tributylstannane and 40 mg. of azobisisobutyronitrile is heated and stirred at 120° C. under nitrogen for 3 hours. The mixture is cooled, filtered through Celite and washed with hexanes. The hexanes are removed in vacuo and the residual liquid is vacuum distilled through a short path. The product is obtained at b.p. 110°-135° C./0.2-0.25 mm. (The product contains a minor amount of cis isomer.)

reactant | 4-fluoromethyl-4-trimethylsilyloxy-1-octyne | FCC(CC#C)(CCCC)O[Si](C)(C)C | C12H23FOSi
reactant | tributylstannane | 10.6 ml | C(CCC)[SnH](CCCC)CCCC
reactant | azobisisobutyronitrile | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
product | 4-Fluoromethyl-4-trimethylsilyloxy-1-tri-n-butylstannyl-trans-1-octene | FCC(C/C=C/[Sn](CCCC)(CCCC)CCCC)(CCCC)O[Si](C)(C)C | InChI=1S/C12H24FOSi.3C4H9.Sn/c1-6-8-10-12(11-13,9-7-2)14-15(3,4)5;3*1-3-4-2;/h2,7H,6,8-11H2,1,3-5H3;3*1,3-4H2,2H3;
